US07176242B2
4-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-4-oxobutanoic acid
To a solution of 3-Amino-4-(3,5-difluoro-phenyl)-1-[1-(3-ethyl-phenyl)-cyclopropylamino]-butan-2-ol (0.500 g, 1.387 mmol) in chloroform (7 ml) was added TEA (0.58 ml, 4.161 mmol) with stirring under nitrogen for 30 min. To this solution was added succinic anhydride (0.138 g, 1.387 mmol) and reaction was stirred overnight at 50° C. The next morning reaction mixture was concentrated in vacuo, yielding the product. (ES+: 461.2)

reactant | 3-Amino-4-(3,5-difluoro-phenyl)-1-[1-(3-ethyl-phenyl)-cyclopropylamino]-butan-2-ol | 1.387 mmol, 0.500 g | NC(C(CNC1(CC1)C1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C21H26F2N2O
reactant | succinic anhydride | 1.387 mmol, 0.138 g | C1(CCC(=O)O1)=O | C4H4O3
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[((1S,2R)-1-(3,5-difluorobenzyl)-3-{[1-(3-ethylphenyl)cyclopropyl]amino}-2-hydroxypropyl)amino]-4-oxobutanoic acid | FC=1C=C(C[C@@H]([C@@H](CNC2(CC2)C2=CC(=CC=C2)CC)O)NC(CCC(=O)O)=O)C=C(C1)F | C25H30F2N2O4
